US04851526
2-Bromo-1-[4-(1H-imidazol-1-yl)phenyl]ethanone hydrobromide
Add bromine (5.71 mL, 0.111 mol) to a solution of 4'-(1H-imidazol-1-yl)acetophenone (20.75 g, 0.111 mol) in 30-32% HBr in acetic acid. Stir the mixture overnight and collect the crystals. Wash the crystals with ethanol (3×50 mL) and air dry for 2h at room temperature to afford the title compound.

reactant | bromine | 0.111 mol, 5.71 mL | BrBr | Br2
reactant | 4'-(1H-imidazol-1-yl)acetophenone | 0.111 mol, 20.75 g | N1(C=NC=C1)C1=CC=C(C=C1)C(C)=O | C11H10N2O
solvent | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-[4-(1H-imidazol-1-yl)phenyl]ethanone hydrobromide | Br.BrCC(=O)C1=CC=C(C=C1)N1C=NC=C1 | InChI=1S/C11H9BrN2O.BrH/c12-7-11(15)9-1-3-10(4-2-9)14-6-5-13-8-14;/h1-6,8H,7H2;1H
